US04371536
A mixture of 2 g of β-carbolin-3-carboxylic acid, 20 ml of thionyl chloride and 2 ml of dimethylformamide is boiled under reflux for 1 hour. The excess thionyl chloride is removed by distillation under reduced pressure. 20 ml of diethylamine is added under cooling to a suspension of the residue in 20 ml of triethylamine and the mixture is concentrated under reduced pressure. The residue is treated with aqueous ammonia (pH 8.5) and the mixture thus obtained is extracted with chloroform (6×25 ml). The extract is washed with water (2×25 ml), dried (K2CO3), decolorized with a small amount of charcoal and filtered. The filtrate is evaporated to dryness and the residue is kept at 60° C. overnight. The solid (1.56 g; 62%) is recrystallized from toluene to form β-carbolin-3-carboxylic acid diethylamide having a melting point of 170.0° C.

reactant | β-carbolin-3-carboxylic acid | 2 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)O | C12H8N2O2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | β-carbolin-3-carboxylic acid diethylamide | C(C)N(C(=O)C=1N=CC=2NC3=CC=CC=C3C2C1)CC | C16H17N3O
